US04051256
3-Aminotricyclo[2,2,1,02,6 ]heptane (21 g.) (prepared as described in U.K. Patent Specification No. 1,051,319), was dissolved in chloroform (25 ml.) and added slowly, below 10°, to a stirred solution of thiophosgene (22 g.) in chloroform (20 ml.). When addition was complete the mixture was allowed to attain ambient temperature and stirred a further 2 hours. The chloroform solution was consecutively washed with 20 ml. portions of water, 1N NaOH, and water again, dried over anhydrous MgSO4, filtered and the chloroform evaporated in vacuo. The residual oil was fractionally distilled in vacuo to give 3-isothiocyanatotricyclo[2,2,1,02,6 ]heptane, b.p. 70°-76° at 0.4 mm. Hg. pressure.

reactant | 3-Aminotricyclo[2,2,1,02,6 ]heptane | 21 g | NC1C2C3C2CC1C3 | C7H11N
reactant | thiophosgene | 22 g | C(=S)(Cl)Cl | CCl2S
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-isothiocyanatotricyclo[2,2,1,02,6 ]heptane | N(=C=S)C1C2C3C2CC1C3 | C8H9NS
